US07816371B2
b. 6-Methyl-5-nitro-1H-isochromen-1-one
A microwave vial was charged with tert-butyl 2-(5-nitro-1-oxo-1H-isochromen-6-yl)acetate (800.0 mg, 0.002620 mol), trifluoroacetic Acid (2 mL, 0.02 mol) and subjected to microwave at 100° C. for 20 minutes. The starting material became converted into the corresponding acid. TFA was removed under reduced pressure and the residue was again taken a microwave tube and quinoline (2 mL, 0.02 mol) was added and heated at 120° C. for 20 minutes. The reaction went to completion and ethylacetate (50 mL) was added and washed with 10 mL of 6N HCl. The HCl layer was extracted with ethyl acetate (50 mL) and the combined organic layers were washed with water, brine and dried. The solvent was removed and the brown solid residue was purified by flash chromatography to yield the pure product as a white solid. MS m/z=206.4 (M+H) 1H-NMR (400 MHz, DMSO-d6) δ 8.29 (d, J=8.19 Hz, 1H), 7.71-7.69 (m, 2H), 6.57 (d, J=6.02 Hz, 1H), 2.45 (s, 3H).

reactant | tert-butyl 2-(5-nitro-1-oxo-1H-isochromen-6-yl)acetate | 0.002620 mol, 800.0 mg | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1CC(=O)OC(C)(C)C)=O | C15H15NO6
reactant | trifluoroacetic Acid | 0.02 mol, 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | quinoline | 0.02 mol, 2 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethylacetate | 50 mL | C(C)OC(C)=O | C4H8O2
product | 6-Methyl-5-nitro-1H-isochromen-1-one | CC=1C(=C2C=COC(C2=CC1)=O)[N+](=O)[O-] | C10H7NO4
